US04925856
A mixture consisting of 118.4 grams of 1-methylimidazole-2-carboxaldehyde, 82.5 grams of hydroxylamine hydrochloride, 113.9 grams of sodium bicarbonate and 1300 ml of absolute ethanol was heated under reflux for 2 hours and then filtered while still hot. The filtrate was concentrated to give a colorless residue which was recrystallized from 2-propanol to give 75 grams of 2-(hydroxyimino)methyl-1-methylimidazole as colorless crystals melting at 170°-172° C.

reactant | 1-methylimidazole-2-carboxaldehyde | 118.4 grams | CN1C(=NC=C1)C=O | C5H6N2O
reactant | hydroxylamine hydrochloride | 82.5 grams | Cl.NO
reactant | sodium bicarbonate | 113.9 grams | C([O-])(O)=O.[Na+]
solvent | ethanol | 1300 ml | C(C)O | C2H6O
product | 2-(hydroxyimino)methyl-1-methylimidazole | 75 grams | ON=CC=1N(C=CN1)C | C5H7N3O
